US05661153
The obtained 6-amino-3-methyl-5-nitroso-1-phenyluracil (0.25 g) and 5% Pd/C (20 mg) were added to 50 ml of methanol and purging with hydrogen gas was performed, followed by stirring at 70° C. for 2.5 hours. The reaction mixture was filtered while hot to give a filtrate. The solvent methanol was distilled off from the filtrate to yield 5,6-diamino-3-methyl-1-phenyluracil (yield: 0.2 g, or 86% based on 6-amino-3-methyl-5-nitroso-1-phenyluracil).

reactant | 6-amino-3-methyl-5-nitroso-1-phenyluracil | 0.25 g | NC1=C(C(N(C(N1C1=CC=CC=C1)=O)C)=O)N=O | C11H10N4O3
catalyst | Pd/C | 20 mg | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
product | 5,6-diamino-3-methyl-1-phenyluracil | yield: 0.2 g, 86% | NC=1C(N(C(N(C1N)C1=CC=CC=C1)=O)C)=O | C11H12N4O2
